US06964966B2
1-Benzyl-3,3-dimethyl-4-piperidone (10.0 g, 46.0 mmol), was added to the stirred solution cyclopropylamine (13.1 g, 230.0 mmol) in methanol (150 ml) and stirred for 6 hr. Sodium cyanoborohydride (2.9 g, 46.0 mmol) was added to it and reaction mixture was stirred for 15 hr. The reaction mixture was concentrated to dryness, triturated with water, extracted with chloroform, dried (Na2SO4) and concentrated. The obtained crude product was purified over silica gel column. Eluted from 5% ethyl acetate in hexane gave 1-benzyl-4-cyclopropylamino-3,3-dimethyl piperidine. Yield 8.0 g (67.3%), C17H26N2, m/z 259 (M+1), PMR (CDCl3): 0.4 (m, 2H), 0.82 (s, 3H), 1.06 (s, 3H), 1.16 (m, 2H), 1.5 (bs, 1H, D2O exchangeable), 1.7 (m, 2H), 1.9-2.95 (m, 5H), 3.3-3.6 (m, 3H), 7.22 (m, 5H).

reactant | 1-Benzyl-3,3-dimethyl-4-piperidone | 46.0 mmol, 10.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)C | C14H19NO
reactant | cyclopropylamine | 230.0 mmol, 13.1 g | C1(CC1)N | C3H7N
reactant | Sodium cyanoborohydride | 46.0 mmol, 2.9 g | C(#N)[BH3-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 1-benzyl-4-cyclopropylamino-3,3-dimethyl piperidine | C(C1=CC=CC=C1)N1CC(C(CC1)NC1CC1)(C)C | C17H26N2
